US04067903
288 parts of β-naphthol, 3 parts of triphenyl phosphite and 80 parts of methylamine gas are heated for 10 hours under pressure at 200° C in a pressure autoclave. The pressure is 40 atmospheres. When the two-phase mixture has cooled, water is added, the batch is stirred for 30 minutes at 70° C and the lower oily phase is separated off and distilled. 305 parts of N-methyl-β-naphthylamine, boiling at 165° - 166° C/12 mm Hg, are obtained. This corresponds to a yield of 97% of theory.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | methylamine | CN | CH5N
solvent | water | O | H2O
product | N-methyl-β-naphthylamine | yield of 97% | CNC1=CC2=CC=CC=C2C=C1 | C11H11N
